*$
* LM66100
*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: LM66100
* Date: 23FEB2021
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 17.2-2016 S067
* EVM Order Number: LM66100EVM
* EVM Users Guide: SLVUBL9–February 2019
* Datasheet: SLVSEZ8A –MARCH 2019–REVISED JUNE 2019
*
* Model Version: Final 1.10
*
*****************************************************************************
*
* Updates:
*
* Final 1.10
* Following modifications are done wrt ver 1.00
*   1. VON, VOFF thresholds and TON delay: The VON and VOFF thresholds are
*      modified such that MOSFET will turn on when (VCE-Vin)<-150mV and
*      turned off when (VCE-Vin) >35mV. TON is modelled as a function of VIN.
*   2. ST pin: TON and TOFF delays are removed from ST pin and a fixed delay
*      of 1us when VON and VOFF thresholds are reached is added.
*      ST RON resistance is changes from 200ohm to 100ohm as per the latest DS.
*	3. RCB detection is activated only when CE is connected to VOUT externally.
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* A. Features have been modelled
*	1. 	Comparator Chip Enable (CE)- VON, VOFF thresholds
*	2. 	Switching Characteristics- TON, TOFF and tFALL
*	3. 	On-Resistance (RON)
*	4. 	Reverse Current Blocking (RCB) and Body Diode Characteristics
*	5. 	Status Indication (ST) functionalities
*	6. 	Reverse Polarity Protection (RPP)
*
* B. Features have not been modelled
*	1. Operating Quiescent Current, shutdown current and Leakage current
*   2. Temperature dependent characteristics
*
*****************************************************************************
.SUBCKT LM66100_TRANS CE GND IN N_C OUT ST
V_V23         N02479 IN -0.5
X_H2    N01447 OUT LOAD 0 LM66100_H2
X_S15    EN_DRV 0 IN N01759 LM66100_S15
G_ABMII7         IN GND VALUE { if(V(EN_DRV)>0.5,0.5u,0.1u)    }
V_V26         N01657 0 1.5
X_X_LOAD         DROP 0 N01299 N01759 N01447 ZX
E_ABM4         CELOW 0 VALUE { if(V(N02265)>0.5,1,0)    }
X_U10         N17412887 N02209 D_LM66100
C_C32         0 N02265  1.443u
E_E1         DROP 0 TABLE { V(VIN_INT, 0) }
+ ( (0,0m) (1.5,140m) (1.8,140m) (3.6,90m) (5,78m) )
V_V25         N01665 0 0.1
X_U8         N02479 N01759 D_LM66100
R_R1         0 N01299  1
X_S16    N17414831 0 ST GND LM66100_S16
R_R38         N02265 N17412887  2
X_U9         N02209 N02235 D_LM66100
X_U864         VIN_INT N01657 N01665 POR COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_E5         VIN_INT 0 IN GND 1
E_ABM6         N02209 0 VALUE { if(V(VON_OFF)>0.5,0,1)    }
X_U870         VON_OFF N17414276 INV_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=1U
X_U871         N17414276 POR N17414831 NAND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R41         0 N17413402  1
V_V27         NOT_RVCUR 0 1
E_E6         TON 0 TABLE { V(VIN_INT, 0) }
+ ( (1.8,90) (3.6,40) (5,27) )
X_X_LOAD1         TON 0 N17413402 N02235 N02265 ZX
X_U862         CE N17415485 N17415488 VON_OFF COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
V_V21         N17415485 VIN_INT 35m
X_U69         POR NOT_RVCUR CELOW EN_DRV AND3_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_V22         N17415488 0 185m
.ENDS LM66100_TRANS
*$
.subckt LM66100_H2 1 2 3 4
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ends LM66100_H2
*$
.subckt LM66100_S15 1 2 3 4
S_S15         3 4 1 2 _S15
RS_S15         1 2 1G
.MODEL         _S15 VSWITCH Roff=1e9 Ron=1m Voff=0.2 Von=0.8
.ends LM66100_S15
*$
.subckt LM66100_S16 1 2 3 4
S_S16         3 4 1 2 _S16
RS_S16         1 2 1G
.MODEL         _S16 VSWITCH Roff=1G Ron=100 Voff=0.2 Von=0.8
.ends LM66100_S16
*$
.subckt D_LM66100 1 2
d1 1 2 dd
.model dd d
+ is=1e-012
+ n=0.0001
+ tt=1e-011
+ bv=100
.ends D_LM66100
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 1n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.subckt zx 1 2 3 4 5
eout 4 6 poly(2) (1,2) (3,0) 0 0 0 0 1
fcopy 0 3 vsense 1
rin 1 2 1G
vsense 6 5 0
.ends
$
