* File     : USBLC6-2SC6.LIB
* Revision : 1.0
* Date     : October 2014
* 
***************************************************************************************
* Information included is believed to be accurate and reliable. However, *
* ST Microelectronics assumes no responsibility for the consequences of  *
* use of such information nor for any infringement of patents or other   *
* rights of third parties which may result from its use. No license is   *
* granted by implication or otherwise under any patent patent rights of  *
* ST Microelectronics. Specification mentionned in this publication are  *
* subject to change without notice. This publication superseedes and 	 *
* replaces all information previously supplied. ST Microelectronics      *
* products are not authorized for use as critical components in life     *
* support or systems without express written approval of ST              *
* Microelectronics.                          	                         *
*                                                                    	 *			*
*    (c) 2014 ST Microelectronics. All rights reserved.     	         *
*                                                                    	 *			*
*           ST Microelectronics GROUP OF COMPANIES                       *
* Australia - Brazil - France - Germany - Hong Kong - Italy - Japan  	 *
* Korea - Malaysia - Malta - Morocco - The Netherlands - Singapore   	 *
* Spain - Sweden - Switzerland - Taiwan - United Kingdom - U.S.A.    	 *
*									 *
***************************************************************************************


.SUBCKT USBLC6-2SC6 1 2 3 4 5 6



.MODEL Dup D
+ IS=312.72E-9
+ N=4.9950
+ RS=264m
+ CJO=2p
+ M=.333
+ VJ=.6
+ ISR=100.00E-12
+ BV=50
+ IBV=1m
+ TT=0.1u

.MODEL Ddn D
+ IS=312.72E-9
+ N=4.9950
+ RS=360m
+ CJO=0.9p   
+ M=.3333
+ VJ=.6
+ ISR=100.00E-12
+ BV=50
+ IBV=100.00E-6
+ TT=0.1u

.MODEL TVS D
+ BV=7.3
+ CJO=40p
+ IBV=1m
+ IKF=343.067
+ IS=5.8E-21
+ ISR=3.11E-21
+ N=487.722m
+ M=381.162m
+ RS=648m
+ VJ=0.75
+ TT=50n


L_L1 6 node1 750p
L_L2 4 node2 750p
L_L17 3 node2 750p
L_L14 node3 2 550p
L_L18 5 node4 750p
L_L16 1 node1 750p
D_D40 node1 node4 Dup
D_D41 node3 node1 Ddn
D_D43 node2 node4 Dup
D_D44 node3 node2 Ddn
D_D45 node3 node4 TVS

.ENDS
